US06015818
To an ice-cooled mixture of sodium hydride (40% in oil, 9 mg) and anhydrous N,N-dimethylformamide (1 ml) was added 8-hydroxy-2-methyl-4-(2-pyridylmethoxy)quinoline (53 mg), and the mixture was stirred at the same temperature for 30 minutes. To this mixture was added 2,6-dichloro-3-[N-[4-(methylcarbamoyl)cinnamoylglycyl]-N-methylamino]benzyl bromide (103 mg), and the mixture was stirred at ambient temperature for 2.5 hours. Water (2 ml) was slowly added to the reaction mixture under ice-water cooling and the precipitates were collected by vacuum filtration and washed with water and diethyl ether. The crude product was purified by a preparative thin layer chromatography (chloroform-methanol-ammonium hydroxide) followed by trituration with ethyl acetate to give 8-[2,6-dichloro-3-[N-[4-(methylcarbamoyl)cinnamoylglycyl]-N-methylamino]benzyloxy]-2-methyl-4-(2-pyridylmethoxy)quinoline (77 mg) as a pinkish powder.

reactant | sodium hydride | 9 mg | [H-].[Na+]
reactant | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
reactant | 8-hydroxy-2-methyl-4-(2-pyridylmethoxy)quinoline | 53 mg | OC=1C=CC=C2C(=CC(=NC12)C)OCC1=NC=CC=C1 | C16H14N2O2
reactant | 2,6-dichloro-3-[N-[4-(methylcarbamoyl)cinnamoylglycyl]-N-methylamino]benzyl bromide | 103 mg | ClC1=C(CBr)C(=CC=C1N(C)C(CNC(C=CC1=CC=C(C=C1)C(NC)=O)=O)=O)Cl | C21H20BrCl2N3O3
solvent | Water | 2 ml | O | H2O
product | 8-[2,6-dichloro-3-[N-[4-(methylcarbamoyl)cinnamoylglycyl]-N-methylamino]benzyloxy]-2-methyl-4-(2-pyridylmethoxy)quinoline | 77 mg | ClC1=C(COC=2C=CC=C3C(=CC(=NC23)C)OCC2=NC=CC=C2)C(=CC=C1N(C)C(CNC(C=CC1=CC=C(C=C1)C(NC)=O)=O)=O)Cl | C37H33Cl2N5O5
